US04307104
2-[2-(2-Guanidino-4-thiazolylmethylthio)ethylamino-]-5,5-dimethyl-3-nitro-1,4,5,6-tetrahydropyridine
The title compound is prepared from 2-(2-guanidino-4-thiazolylmethylthio)ethylamine and 2-methylthio-3-nitro-5,5-dimethyl-1,4,5,6-tetrahydropyridine by a process analogous to that of Example 1.

reactant | 2-(2-guanidino-4-thiazolylmethylthio)ethylamine | N(C(=N)N)C=1SC=C(N1)CSCCN | C7H13N5S2
reactant | 2-methylthio-3-nitro-5,5-dimethyl-1,4,5,6-tetrahydropyridine | CSC=1NCC(CC1[N+](=O)[O-])(C)C | C8H14N2O2S
product | 2-[2-(2-Guanidino-4-thiazolylmethylthio)ethylamino-]-5,5-dimethyl-3-nitro-1,4,5,6-tetrahydropyridine | N(C(=N)N)C=1SC=C(N1)CSCCNC=1NCC(CC1[N+](=O)[O-])(C)C | C14H23N7O2S2
